datasets/10k_Mayr_OG.csv
SMILES Labelled
"CC(C)(C1=CC=CC=C1)[O:21][S:20]C(F)(F)F.FC(F)(F)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1>>CC(C)(C1=CC=CC=C1)[O-:21].FC(F)(F)[S:20][O:10][C:61]1=[CH:62][CH:63]=[C:64](C(F)(F)F)[CH:73]=[CH:72]1 10=20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1.C[N:14]1[CH:10]=[CH:11][CH:12]=[CH:13]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[CH:11]=[CH:12][CH:13]=[N+:14]2C)[C:41]2=[CH:42][C:43]3=[C:44](OCC3)[CH:43]=[CH:44]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14=13,14"
"C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23].FC(F)(F)[C:63]1=[CH:64][CH:73]=[CH:72][C:61]([S-:10])=[CH:62]1>>C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([S:10][C:61]2=[CH:62][C:63](C(F)(F)F)=[CH:64][CH:73]=[CH:72]2)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23] 10=20;20,21=21,22;22,23=23"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.[CH:10](=[C:11]=[N-:12])[N+:61]1=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([C:11]#[N:12])[N+:61]2=[CH:62][CH:63]=[CH:64][CH:73]=[CH:72]2)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CCN(C[C@@H]2CCC[NH:10]2)C1.FC(F)(F)[S:20][N:21]([S:32](C1=CC=CC=C1)(=[O:33])=[O:34])[S:42](C1=CC=CC=C1)(=[O:43])=[O:44]>>C1=CC=C([S:32]([N-:21][S:42](C2=CC=CC=C2)(=[O:43])=[O:44])(=[O:33])=[O:34])C=C1.FC(F)(F)[S:20][NH+:10]1CCC[C@H]1CN1CCCC1 10=20;20,21=21"
"C1[C:63]2=[C:62]([CH:11]([H:10])[C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>C1[C:63]2=[C:62]([CH+:11][C:82]3=[C:83]1[CH:84]=[CH:85][CH:94]=[CH:93]3)[CH:73]=[CH:74][CH:65]=[CH:64]2.C[N:21](C)[CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[N:10]1=[CH:11][NH:12][CH:62]=[CH:61]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N:10]2[CH:11]=[NH+:12][CH:62]=[CH:61]2)[C:41]2=[CH:42][CH:43]=[C:44](OC)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([C+:20]2[S:31]CC[S:41]2)C=C1.CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)C12CCCC2>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[C:20]2(C3=CC=CC=C3)[S:31]CC[S:41]2)C12CCCC2 10,11=10,20;12=11,12"
"C1=CC2=C(C=C1)[S:62][C:11]1=[N:10]CC[N:12]21.COC1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>COC1=CC=C([CH:20]([N:10]2CC[N+:12]3=[C:11]2[S:62]C2=C3C=CC=C2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([N:12]2[CH:11]=[N:10][CH:64]=[CH:63]2)C=C1.[CH:20](=[CH:21]/[N+:22](=[O:23])[O-:33])\[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C1=CC=C([N+:12]2=[CH:11][N:10]([CH:20]([CH:21]=[N+:22]([O-:23])[O-:33])[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:64]=[CH:63]2)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O:12][C:11]2=[CH:10]CC[O:72]2)C(F)=C1F.[C:20](=[S:21])=[S:31]>>FC1=C(F)C(F)=C([Si:63](C2=C(F)C(F)=C(F)C(F)=C2F)(C2=C(F)C(F)=C(F)C(F)=C2F)[O+:12]=[C:11]2[CH:10]([C:20]([S-:21])=[S:31])CC[O:72]2)C(F)=C1F 10,11=10,20;12=11,12;20,21=21"
"C1CC[C:21](=[O:20])C1.[O+]#C[Mn-5:11](C#[O+])(C#[O+])(C#[O+])(C#[O+])[H:10]>>C1CC[C-:21]([O:20][H:10])C1.[O+]#C[Mn-4:11](C#[O+])(C#[O+])(C#[O+])C#[O+] 10,11=10,20;20,21=21"
"C1=CC=C([N:62]2[CH:61]=[N:10][CH:64]=[CH:63]2)C=C1.CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23]>>CC(C)[O:33][C:22](=[N:21][N:20]([N+:10]1=[CH:61][N:62](C2=CC=CC=C2)[CH:63]=[CH:64]1)[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
C[S+](C)[CH-:10]C1=CC=C([N+](=O)[O-])C=C1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>C[S+](C)[CH:10](C1=CC=C([N+](=O)[O-])C=C1)[C:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1 10=20
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C.C[S+:61](C)[O-:10]>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([O:10][S+:61](C)C)[C:31]2=[CH:32][CH:33]=[C:34]([N+](=O)[O-])[CH:35]=[CH:36]2)C1(C)C 10=20;20,21=21,22;22,23=23"
"C[C:11](=[CH2:10])[CH2:62][Si:63](C)(C)C.C[N+:23]1=[C:22]2C=CC=C[C:21]2=[CH:20][C:31]2=[C:32]1C=CC=C2>>C[C+:11]([CH2:10][CH:20]1[C:21]2=[C:22](C=CC=C2)[N:23](C)[C:32]2=[C:31]1C=CC=C2)[CH2:62][Si:63](C)(C)C 10,11=10,20;20,21=21,22;22,23=23"
